US07670591B2
2-[6-(Dimethylamino)pyridin-3-yl]-1,3-benzoxazol-5-ol
To a solution of 5-(5-methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine (0.368 mmol) in dichloromethane (2.0 mL) was added BBr3 in dichloromethane (1.84 mmol) at 0° C. under an atmosphere of argon and the reaction stirred for 1 h at 0° C. The reaction mixture was neutralized with NaHCO3 (sat. aq.) and dichloromethane was added. The layers were separated and the aqueous phase was extracted with dichloromethane (4×). The combined organic phases were dried (MgSO4), filtered and the solvents removed in vacuo. The crude material was purified by preparative HPLC to give 22.3 mg of the title compound as a white solid. 1H NMR δ ppm 9.44 (s, 1H), 8.83 (d, 1H), 8.13 (dd, 1H), 7.48 (d, 1H), 7.01 (d, 1H), 6.80 (d, 1H), 6.76 (dd, 1H), 3.14 (s, 6H). MS m/z (M+H) 256.

reactant | 5-(5-methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyridin-2-amine | 0.368 mmol | COC=1C=CC2=C(N=C(O2)C=2C=CC(=NC2)N(C)C)C1 | C15H15N3O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.84 mmol | ClCCl | CH2Cl2
product | 2-[6-(Dimethylamino)pyridin-3-yl]-1,3-benzoxazol-5-ol | 22.3 mg | CN(C1=CC=C(C=N1)C=1OC2=C(N1)C=C(C=C2)O)C | C14H13N3O2
